US09216182B2
c) 1-(5-carbamoylpyridin-2-yl)piperidin-4-yl 4-isopropylpiperazine-1-carboxylate
To the solution of 1-(5-carbamoylpyridin-2-yl)-piperidin-4-yl 4-nitrophenyl carbonate (3.0 g, 7.77 mmol) in pyridine (50 ml) was added 1-isopropylpiperazine (1.05 g, 8.16 mmol) and DIPEA (2.01 g, 15.5 mmol). The resulting mixture was stirred at 30° C. for 2 h before it was concentrated to dryness. The residue was further purified by silica gel chromatography (DCM: MeOH=50:1 to 5:1) to afford the title compound as a white solid (1.46 g, 50%). MP: 200.1-203.6° C. [1H NMR (DMSO, 500 MHz): δ 8.61 (d, J=2 Hz, 1H), 7.95 (dd, J=2.5 Hz, 9 Hz, 1H), 7.53 (s, 1H), 7.12 (s, 1H), 6.87 (d, J=9.5 Hz, 1H), 4.83 (m, 1H), 3.90-3.85 (m, 2H), 3.54-3.49 (m, 2H), 3.34 (s, 4H), 2.67-2.64 (m, 1H), 2.38 (m, 4H), 1.89-1.85 (m, 2H), 1.58-1.54 (m, 2H), 0.95 (d, J=6.5 Hz, 6H); LCMS RtA=1.61 min, [M+H]+=376.3].

reactant | 1-(5-carbamoylpyridin-2-yl)-piperidin-4-yl 4-nitrophenyl carbonate | 7.77 mmol, 3.0 g | C(OC1CCN(CC1)C1=NC=C(C=C1)C(N)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H18N4O6
reactant | 1-isopropylpiperazine | 8.16 mmol, 1.05 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | DIPEA | 15.5 mmol, 2.01 g | CCN(C(C)C)C(C)C | C8H19N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-carbamoylpyridin-2-yl)piperidin-4-yl 4-isopropylpiperazine-1-carboxylate | 1.46 g, 50% | C(C)(C)N1CCN(CC1)C(=O)OC1CCN(CC1)C1=NC=C(C=C1)C(N)=O | C19H29N5O3
